US09428528B2
Step 1 Preparation of 2-(5-Bromo-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of 5-Bromo-2-pyrrolidin-2-yl-pyridine (611 mg, 2.69 mmol) (previously described in WO200853319) in CH2Cl2 (20 ml) is treated with di-tert-butyl dicarbonate (881 mg, 4.04 mmol) and triethylamine (0.562 ml, 4.04 mmol), and stirred at ambient temperature for 16 hours. The reaction mixture is washed with 10% aqueous citric acid solution (25 ml). The organic phase is concentrated on to silica gel (5 g) and purified by column chromatography (40 g silica gel, ethyl acetate/heptane 0-50%) to afford the title compound (500 mg): 1H NMR (400 MHz, CDCl3) 1.23 (s, 5H), 1.45 (s, 4H), 1.82-2.09 (m, 3H), 2.24-2.43 (m, 1H), 3.47-3.74 (m, 2H), 4.67-4.99 (m, 1H), 7.05-7.14 (m, 1H), 7.71-7.78 (m, 1H), 8.59 (dd, 1H). m/z M+H 327.

reactant | 5-Bromo-2-pyrrolidin-2-yl-pyridine | 2.69 mmol, 611 mg | BrC=1C=CC(=NC1)C1NCCC1 | C9H11BrN2
reactant | di-tert-butyl dicarbonate | 4.04 mmol, 881 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 4.04 mmol, 0.562 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(5-Bromo-pyridin-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC=C(C=C1)Br | C14H19BrN2O2
